US07402680B2
3-(4-Chloro-phenyl)-1-(4-methoxy-2-methyl-benzyl)-1,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene
To a solution of 3-(4-chloro-phenyl)-4,5,7,8-tetrahydro-1H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester (Example 103, Step B; 0.4 mmol) in toluene (3 mL) was added 4-methoxy-2-methyl-benzyl chloride (0.9 mmol) and cyanomethylene-tri-n-butylphosphorane (1 mmol). The mixture was heated at 110° C. for 16 h. After concentration and purification (SiO2, EtOAc/hexanes), 3-(4-chloro-phenyl)-1-(4-methoxy-2-methyl-benzyl)-1,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester was obtained (54 mg). The other regioisomer, 3-(4-chloro-phenyl)-2-(4-methoxy-2-methyl-benzyl)-1,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester, was also obtained (86 mg). 3-(4-Chloro-phenyl)-1-(4-methoxy-2-methyl-benzyl)-1,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester (20 mg) was treated with TFA (1 mL) in CH2Cl2 (10 mL) for 4 h. After concentration of the reaction mixture, the title compound was obtained (0.02 g). MS (ESI): exact mass calculated for C22H24ClN3O, 381.16; found, m/z 382.1 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.39-7.37 (m, 2H), 7.34-7.32 (m, 2H), 6.68-6.66 (br m, 1H), 6.54-6.52 (br m, 1H), 6.37 (d, J=8.3 Hz, 1H), 5.21 (s, 2H), 2.81-2.79 (m, 4H), 2.71-2.69 (m, 4H).

reactant | 3-(4-Chloro-phenyl)-1-(4-methoxy-2-methyl-benzyl)-1,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester | 20 mg | C(C)(C)(C)OC(=O)N1CCC=2C(=NN(C2CC1)CC1=C(C=C(C=C1)OC)C)C1=CC=C(C=C1)Cl | C27H32ClN3O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Chloro-phenyl)-1-(4-methoxy-2-methyl-benzyl)-1,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene | ClC1=CC=C(C=C1)C1=NN(C=2CCNCCC12)CC1=C(C=C(C=C1)OC)C | C22H24ClN3O
